US05959107
5-Isoquinolinethiol 500 mg (3.1 mmol) was dissolved in DMF 20 ml, potassium carbonate 1.29 g (9.3 mmol) and N1-(2-amino-4-fluoro-5-nitrophenyl)butane amide 750 mg (3.1 mmol) were added, and the mixture was heated with stirring at 90° C. for 6 hours. The reaction mixture was concentrated under reduced pressure, ethyl acetate-ether was added to the resulting residue to crystallize. The crystals were collected and washed with methanol to obtain N1-[2-amino-4-(5-isoquinolylsulfanyl)-5-nitrophenyl]butanamide 150 mg (12.9%).

reactant | 5-Isoquinolinethiol | 3.1 mmol, 500 mg | C1=NC=CC=2C(=CC=CC12)S | C9H7NS
reactant | potassium carbonate | 9.3 mmol, 1.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | N1-(2-amino-4-fluoro-5-nitrophenyl)butane amide | 3.1 mmol, 750 mg | NC1=C(C=C(C(=C1)F)[N+](=O)[O-])NC(CCC)=O | C10H12FN3O3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N1-[2-amino-4-(5-isoquinolylsulfanyl)-5-nitrophenyl]butanamide | 150 mg, 12.9% | NC1=C(C=C(C(=C1)SC1=C2C=CN=CC2=CC=C1)[N+](=O)[O-])NC(CCC)=O | C19H18N4O3S
